US05262420
Preparation of 1-phenyl-3-(3-methyl-4-pyridyl)-propane
1.0 g (9.35 mmol) of 3,4-dimethylpyridine and 1.73 g (9.35 mmol) of phenethyl bromide were reacted in the same manner as in Example 1. The reaction product was purified to obtain 1.82 g of the desired compound (yield: 92.4%).

reactant | 3,4-dimethylpyridine | 9.35 mmol, 1.0 g | CC=1C=NC=CC1C | C7H9N
reactant | phenethyl bromide | 9.35 mmol, 1.73 g | C(CC1=CC=CC=C1)Br | C8H9Br
product | 1-phenyl-3-(3-methyl-4-pyridyl)-propane | 1.82 g, yield: 92.4% | C1(=CC=CC=C1)CCCC1=C(C=NC=C1)C | C15H17N
